US05859053
a) 2,2-Dimethyl-[1,3]dioxolan-4-yl-methyl 2-acetoxybenzoate
The solution from 2-acetoxybenzoic acid (10.0 g, 55.5 mmol) in dichloromethane (200 ml) is treated with triethylamine (7.7 ml, 55.5 mmol), cooled to 0° C., treated dropwise with ethyl chloroformate (5.3 ml, 55.5 mmol), stirred at 0° C. for 1 h and filtered. The filtrate is added at room temperature to a solution of (±)-2,2-dimethyl-4-hydroxymethyl-1,3-dioxolane (7.33 g, 55.5 mmol) and triethylamine (50 ml) in dichloromethane (100 ml). After 4 h, water (50 ml) is added and the mixture is stirred. The organic phase is washed with dilute hydrochloric acid, saturated aqueous sodium hydrogencarbonate solution and water, dried over magnesium sulphate and concentrated. The residue is purified by column chromatography on silica gel 60 (hexane/ethyl acetate =15/1). Yield: 8.4 g.

reactant | 2-acetoxybenzoic acid | 55.5 mmol, 10.0 g | C(C)(=O)OC1=C(C(=O)O)C=CC=C1 | C9H8O4
reactant | triethylamine | 55.5 mmol, 7.7 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 55.5 mmol, 5.3 ml | ClC(=O)OCC | C3H5ClO2
reactant | (±)-2,2-dimethyl-4-hydroxymethyl-1,3-dioxolane | 55.5 mmol, 7.33 g | CC1(OCC(O1)CO)C | C6H12O3
reactant | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
product | 2,2-Dimethyl-[1,3]dioxolan-4-yl-methyl 2-acetoxybenzoate | C(C)(=O)OC1=C(C(=O)OCC2OC(OC2)(C)C)C=CC=C1 | C15H18O6
